US06204221B1
3-(3,5-dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole
2.0 g of 3-(3,5-dichloro-2-pyridyl)-5-trifluoromethyl-1-methyl-[1H]-pyrazole (Example H12) are initially introduced into glacial acetic acid at 40° C., and chlorine gas is passed slowly over the solution, while stirring. The reaction can be monitored analytically by means of thin layer chromatography (silica gel 60 F254, eluting agent: n-hexane/ethyl acetate 4/1, UV). When no further starting material can be detected, the glacial acetic acid is removed in vacuo and the residue is partitioned between dilute aqueous sodium hydroxide solution and ethyl acetate. After extraction by shaking, the organic phase which has been separated off is washed with brine, dried over sodium sulfate, filtered and concentrated. The yellow oil is purified by means of flash chromatography (silica gel, eluting agent: n-hexane/ethyl acetate 5/1). 1.6 g of the desired compound are obtained as a yellow oil (70% of theory).

reactant | 3-(3,5-dichloro-2-pyridyl)-5-trifluoromethyl-1-methyl-[1H]-pyrazole | 2.0 g | ClC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)C(F)(F)F)C | C10H6Cl2F3N3
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(3,5-dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole | 1.6 g, 90% yield | ClC=1C(=NC=C(C1)Cl)C1=NN(C(=C1Cl)C(F)(F)F)C | C10H5Cl3F3N3
